US04692532
N-(3,5-di-tert-butyl-4-hydroxyphenylthiomethyl)phthalimide
A vessel was charged with 12.19 grams of 3,5-di-tert-butyl-4-hydroxybenzene thiol and 3.30 grams of potassium hydroxide dissolved in 50 ml of acetone and 2 ml of water at 0° C. which was mixed with 10.0 grams of N-(chloromethyl)phthalimide. After stirring for one hour, the precipitated product was removed by filtration and then recrystallized from ethyl acetate-hexane to give 14.9 grams of produt, m.p. 151°-53° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzene thiol | 12.19 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S | C14H22OS
reactant | potassium hydroxide | 3.30 grams | [OH-].[K+]
reactant | water | 2 ml | O | H2O
reactant | N-(chloromethyl)phthalimide | 10.0 grams | ClCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6ClNO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(3,5-di-tert-butyl-4-hydroxyphenylthiomethyl)phthalimide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCN1C(C=2C(C1=O)=CC=CC2)=O | C23H27NO3S
